### PR TITLE
[Merged by Bors] - feat(GroupTheory/SpecificGroups/Cyclic): Actions on cyclic groups factor through `ZMod`

### PR DESCRIPTION
**Pull request by tb65536**
This is a technical PR needed for the classification of Z-groups in #20358.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 1]
```diff
@@ -342,6 +342,33 @@ lemma IsCyclic.exists_ofOrder_eq_natCard [h : IsCyclic α] : ∃ g : α, orderOf
...
+      ← (MonoidHom.map_cyclic (MulDistribMulAction.toMonoidHom G (m * n))).choose_spec,
+      MulDistribMulAction.toMonoidHom_apply, MulDistribMulAction.toMonoidHom_apply,
+      MulDistribMulAction.toMonoidHom_apply, mul_smul]
+
+theorem IsCyclic.toMonoidHom_apply {M G : Type*} [Monoid M] [Group G] [IsCyclic G]
+    [MulDistribMulAction M G] {n : ℕ} (hn : Nat.card G = n) (m : M) (g : G) (k : ℤ)
+    (h : toMonoidHom M G hn m = k) : m • g = g ^ k := by
+  rw [← MulDistribMulAction.toMonoidHom_apply,
+    (MonoidHom.map_cyclic (MulDistribMulAction.toMonoidHom G m)).choose_spec g,
+    zpow_eq_zpow_iff_modEq]
```
Comment (Rida-Hamadani) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:368]:
```suggestion
    (MulDistribMulAction.toMonoidHom G m).map_cyclic.choose_spec g, zpow_eq_zpow_iff_modEq]
```
This change applies every time `map_cyclic` is used, it will make `rw` one line shorter here.

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 2]
```diff
@@ -342,6 +342,32 @@ lemma IsCyclic.exists_ofOrder_eq_natCard [h : IsCyclic α] : ∃ g : α, orderOf
...
+/-- A `MulDistribMulAction` action on a cyclic group of order `n` factors through `ZMod n`. -/
+noncomputable def IsCyclic.toMonoidHom (M G : Type*) [Monoid M] [Group G] [IsCyclic G]
+    [MulDistribMulAction M G] {n : ℕ} (hn : Nat.card G = n) : M →* ZMod n where
+  toFun := fun m ↦ (MulDistribMulAction.toMonoidHom G m).map_cyclic.choose
+  map_one' := by
+    obtain ⟨g, hg⟩ := IsCyclic.exists_ofOrder_eq_natCard (α := G)
+    rw [← Int.cast_one, ZMod.intCast_eq_intCast_iff, ← hn, ← hg, ← zpow_eq_zpow_iff_modEq, zpow_one,
+      ← (MulDistribMulAction.toMonoidHom G 1).map_cyclic.choose_spec,
+      MulDistribMulAction.toMonoidHom_apply, one_smul]
+  map_mul' := fun m n ↦ by
```
Comment (ocfnash) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:354]:
```suggestion
  map_mul' m n := by
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
